### PR TITLE
For function postcondition violations, point to the problematic expression branch

### PR DESCRIPTION
**Pull request by keyboardDrummer**
### Description
If the result of an expression does not satisfy the constraints of its context, then an error is reported in the branch of the expression that does not satisfy the context.

Effected contexts:
- Function postconditions
- Witness expressions
- Expression default values
- Subset type checks for function call arguments
- Assignment to a subset type local

Example of improved error reporting:
```dafny

function ElseError(x: int): int // previous primary error location
  ensures ElseError(x) == 0 // related error location
{
  if x == 0 then
    0 
  else 
    1 // new primary error location
}
function ThenError(x: int): int // previous primary error location
  ensures ThenError(x) == 0 // related error location
{
  if x == 0 then
    1 // new primary error location
  else 
    0 
}

function CaseError(x: int): int // previous primary error location
  ensures CaseError(x) == 1 // related error location
{
  match x {
    case 0 => 1
    case 1 => 0 // new primary error location
    case _ => 1 
  }
}

function LetError(x: int): int // previous primary error location
  ensures LetError(x) == 1 // related error location
{
  var r := 3;
  r // new primary error location
}
```

### How has this been tested?
- Added CLI test `ast/functions/ensuresReporting.dfy`
- `ast/subsetTypes/errorReporting.dfy`
- `ast/expression/functionCall.dfy`
- `ast/statement/localAssignment.dfy`

<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Source/DafnyCore/Options/DafnyProject.cs [hunk 1]
```diff
@@ -17,8 +17,8 @@
 namespace Microsoft.Dafny;
 
 public class DafnyProject : IEquatable<DafnyProject> {
-  public static Option<FileInfo> FindProjectOption = new("--find-project",
-    "Given a filesystem path, search for a project file by traversing up the file tree.");
+  public static Option<bool> FindProjectOption = new("--find-project",
```
Comment (MikaelMayer) [inline Source/DafnyCore/Options/DafnyProject.cs:20]: It does not look like a hidden option, any concerns about backward compatibility?

File: Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs [hunk 2]
```diff
@@ -1526,17 +1560,17 @@ void CheckWellformedLetExprWithResult(LetExpr e, WFOptions wfOptions, Bpl.Expr r
         var letBody = Substitute(e.Body, null, substMap);
         CheckWellformed(letBody, wfOptions, locals, builder, etran);
         if (e.Constraint_Bounds != null) {
-          var substMap_prime = SetupBoundVarsAsLocals(lhsVars, builder, locals, etran);
-          var nonGhostMap_prime = new Dictionary<IVariable, Expression>();
+          var substMapPrime = SetupBoundVarsAsLocals(lhsVars, builder, locals, etran);
```
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs]: Really??? I don't think it improves anything. But sure I'll rename it.

File: Source/IntegrationTests/TestFiles/LitTests/LitTest/git-issues/git-issue-3804c.dfy [hunk 3]
```diff
@@ -21,6 +21,6 @@ function Test(x: bool): int
         assert P(2) by { reveal p21; } // p21 can be revealed and this assertion is visible outside.
         2
     };
-  assert P(x);
+  assert P(x); // No longer verifies since we scoped expression proofs
```
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/IntegrationTests/TestFiles/LitTests/LitTest/git-issues/git-issue-3804c.dfy:24]: Sorry, that comment was from some other changes. It does not belong in this PR.

File: Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs [hunk 4]
```diff
@@ -1380,30 +1394,43 @@ private Expr TrMatchExpr(MatchExpr me, WFOptions wfOptions, Expr result, Type re
...
+
       // If we're inside an "old" expression, then "etran" will know how to translate
       // expressions. However, here, we're also having to translate e.S, which is a
       // Statement. Since statement translation (in particular, translation of CallStmt's)
       // work directly on the global variable $Heap, we temporarily change its value here.
       if (etran.UsesOldHeap) {
         BuildWithHeapAs(stmtExpr.S.Tok, etran.HeapExpr, "StmtExpr#", locals, builder,
-          () => TrStmt(stmtExpr.S, builder, locals, etran));
+          () => {
+            foreach (var statement in statements) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs:1423]: Oh indeed. I hadn't realized that statements did not contain the remaining of the statements.

File: Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs (hunk 2 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Verifier/BoogieGenerator.ExpressionWellformed.cs]: For me it improves maintainability. At first when I looked at "substMapPrime" I was thinking of prime numbers, which had nothing to do with that. Then I looked everywhere to see what "prime" was referring to and I did not find that. Then I realized it could be a character encoding of the ' and it made sense. Just want to avoid future confusion.
We could also replace the "2" by something more self-explaining, like `substMapLocalVars`

File: Source/DafnyCore/Verifier/BoogieGenerator.Types.cs [hunk 5]
```diff
@@ -1431,16 +1431,16 @@ void AddWellformednessCheck(RedirectingTypeDecl decl) {
     // parameters of the procedure
     var inParams = MkTyParamFormals(decl.TypeArgs, true);
     Type baseType;
-    Bpl.Expr wh;
+    Bpl.Expr whereClause;
```
Comment (MikaelMayer) [inline Source/DafnyCore/Verifier/BoogieGenerator.Types.cs:1434]: Useful renaming.

File: Source/DafnyCore/Verifier/BoogieGenerator.Types.cs [hunk 6]
```diff
@@ -1507,15 +1507,16 @@ void AddWellformednessCheck(RedirectingTypeDecl decl) {
             CheckResultToBeInType(result.Tok, result, decl.Var.Type, locals, returnBuilder, etran);
           }
 
+          // check that the witness is assignable to the type of the given bound variable
+          CheckResultToBeInType(decl.Witness.tok, decl.Witness, baseType, locals, witnessCheckBuilder, etran);
           // check that the witness expression checks out
-          witnessExpr = Substitute(decl.Constraint, decl.Var, result);
+          witnessExpr = decl.Constraint != null ? Substitute(decl.Constraint, decl.Var, decl.Witness) : null;
```
Comment (MikaelMayer) [inline Source/DafnyCore/Verifier/BoogieGenerator.Types.cs:1513]:
```suggestion
          witnessExpr = decl.Constraint != null ? Substitute(decl.Constraint, decl.Var, decl.Witness) : decl.Witness;
```
?

File: Source/DafnyCore/Verifier/BoogieGenerator.Types.cs [hunk 7]
```diff
@@ -1524,8 +1525,8 @@ void AddWellformednessCheck(RedirectingTypeDecl decl) {
       } else {
         // before trying 0 as a witness, check that 0 can be assigned to baseType
         witnessString = Printer.ExprToString(options, witness);
-        CheckResultToBeInType(decl.tok, witness, decl.Var.Type, locals, witnessCheckBuilder, etran, $"trying witness {witnessString}: ");
-        witnessExpr = Substitute(decl.Constraint, decl.Var, witness);
+        CheckResultToBeInType(decl.tok, witness, baseType, locals, witnessCheckBuilder, etran, $"trying witness {witnessString}: ");
+        witnessExpr = decl.Constraint != null ? Substitute(decl.Constraint, decl.Var, witness) : null;
```
Comment (MikaelMayer) [inline Source/DafnyCore/Verifier/BoogieGenerator.Types.cs:1529]: Same question as above. I'm surprised that witnessExpr can be null even if there is a witness given.

File: Source/DafnyCore/Verifier/BoogieGenerator.Types.cs [hunk 8]
```diff
@@ -1572,13 +1572,26 @@ private void SplitAndAssertExpression(BoogieStmtListBuilder witnessCheckBuilder,
...
+      var delayer = new ReadsCheckDelayer(etran, null, locals, builderInitializationArea, constraintCheckBuilder);
+      delayer.DoWithDelayedReadsChecks(false, wfo => {
+        CheckWellformedAndAssume(decl.Constraint, wfo, locals, constraintCheckBuilder, etran, "predicate subtype constraint");
+      });
+    }
+
+    // var delayer = new ReadsCheckDelayer(etran, null, locals, builderInitializationArea, constraintCheckBuilder);
+    // delayer.DoWithDelayedReadsChecks(false, wfo => {
+    //   CheckWellformedAndAssume(decl.Constraint, wfo, locals, constraintCheckBuilder, etran, "predicate subtype constraint");
+    // });
```
Comment (MikaelMayer) [inline Source/DafnyCore/Verifier/BoogieGenerator.Types.cs:1594]:
```suggestion
```

**Review by MikaelMayer — COMMENTED** [review]
Only two comments. Still a few check warnings in BoogieExtractor.cs line 190 as well.
Otherwise looks good.
